US05380742
EXAMPLE 6: 1,3-Dichloro-5-[(4,5-dihydro-1H-imidazol-2-yl)methyl]-5,6-dihydro-4H-thieno [3,4-c]pyrrole dihydrochloride.
A solution of 2.13 g (0.011 mol) of 1,3-dichloro-5,6-dihydro-4H-thieno[3,4-c]pyrrole and 2.5 ml of N,N-diisopropylethylamine in 25 ml of dimethylformamide is poured onto a mixture of 1.95 g (0.0125 mol) of 2-chloromethyl-1H-4,5-dihydroimidazole hydrochloride, 2.5 ml of N,N-diisopropylethylamine and 25 ml of dimethylformamide. The mixture is subjected to ultrasound for 8 h and is then evaporated under vacuum. The residue is dissolved in 75 ml of salt solution and extracted with 5 times 50 ml of methylene chloride. The organic solution is dried and then concentrated to produce a residue which is dissolved in 50 ml of isopropanol and treated with 14 ml of a 1N solution of hydrochloric acid in isopropanol. The crystals formed by cooling are filtered and washed with diethyl ether. 0.5 g of product is obtained. Melting point: 206°-213° C. (with decomposition).

reactant | 1,3-dichloro-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.011 mol, 2.13 g | ClC=1SC(=C2C1CNC2)Cl | C6H5Cl2NS
reactant | N,N-diisopropylethylamine | 2.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 2.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1,3-Dichloro-5-[(4,5-dihydro-1H-imidazol-2-yl)methyl]-5,6-dihydro-4H-thieno [3,4-c]pyrrole dihydrochloride | 0.5 g | Cl.Cl.ClC=1SC(=C2C1CN(C2)CC=2NCCN2)Cl | InChI=1S/C10H11Cl2N3S.2ClH/c11-9-6-3-15(4-7(6)10(12)16-9)5-8-13-1-2-14-8;;/h1-5H2,(H,13,14);2*1H
